US07601716B2
1-(2,5-Dichlorobenzyl)-7-iodo-4-methyl-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine
To a solution of 1-(2,5-dichlorobenzyl)-7-iodo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine (305 mg) in anhydrous N,N-dimethylformamide was added NaH (1.6 eq) followed by iodomethane (1.4 eq). The reaction mixture was stirred at room temperature for 48 hours and then concentrated. Column chromatography gave the title compound as a yellow solid (56% yield). LCMS: m/z=434.17 (M+H+), 1H-NMR (CDCl3, 400 MHz) δ 3.09 (3H, s), 3.42 (2H, m), 3.48 (2H, m), 4.36 (2H, s), 6.54 (1H, d, J=1.8 Hz), 7.17 (1H, d, J=2.3 Hz), 7.21 (1H, dd, J=8.6, 2.5 Hz), 7.34 (1H, d, J=4.3 Hz), 7.72 (1H, d, J=1.8 Hz).

reactant | 1-(2,5-dichlorobenzyl)-7-iodo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine | 305 mg | ClC1=C(CN2C3=C(NCC2)N=CC(=C3)I)C=C(C=C1)Cl | C14H12Cl2IN3
reactant | NaH | 1.6 eq | [H-].[Na+]
reactant | iodomethane | 1.4 eq | IC | CH3I
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 1-(2,5-Dichlorobenzyl)-7-iodo-4-methyl-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine | 56% yield | ClC1=C(CN2C3=C(N(CC2)C)N=CC(=C3)I)C=C(C=C1)Cl | C15H14Cl2IN3
